US04990521
2.8 Parts of N,N-diethylethanamine were added to a solution of 1 part of 5H, 10H-diimidazo[1,5-a:1',5'-d]pyrazine-5,10-dione in 36 parts of N,N-dimethylformamide. The thus obtained suspension was added dropwise to a stirred and heated (70° C.) solution of 3.95 parts of trans-4-amino-3-hydroxy-N,N,γ-trimethyl-α,α-diphenyl-1-piperidinebutanamide in 18 parts of N,N-dimethylformamide. Upon complete addition, stirring was continued overnight at 70° C. After evaporation, the residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was further purified by column chromatography (HPLC) over silica gel using a mixture of trichloromethane, methanol and methanol, saturated with ammonia, (90:9:1 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was pulverised and evaporated again, yielding 1.13 parts (23%) of trans-3-hydroxy-4-[(1H-imidazol-5-yl)carbonylamino] -N,N,γ-trimethyl-α,α-diphenyl-1-piperidinebutanamide; mp. 155.0° C. (compound 43).

reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | 10H-diimidazo[1,5-a:1',5'-d]pyrazine-5,10-dione | C=1N=CN2C(C=3N(C(C21)=O)C=NC3)=O | C8H4N4O2
reactant | trans-4-amino-3-hydroxy-N,N,γ-trimethyl-α,α-diphenyl-1-piperidinebutanamide | N[C@H]1[C@@H](CN(CC1)C(CC(C(=O)N(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)C)O | C24H33N3O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | trans-3-hydroxy-4-[(1H-imidazol-5-yl)carbonylamino] -N,N,γ-trimethyl-α,α-diphenyl-1-piperidinebutanamide | 23% | O[C@@H]1CN(CC[C@H]1NC(=O)C1=CN=CN1)C(CC(C(=O)N(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)C | C28H35N5O3
